US09376418B2
Literature procedure was used to for the selective monosubstitution of dibromoarenes, see: Iida, T.; Wada, T.; Tomimoto, K.; Mase, T. Tetrahedron Lett. 2001, 42, 4841-4844. n-Butylmagnesium chloride in THF (2 M, 0.739 mL, 1.48 mmol) was added to a solution of 1:1 THF:toluene (4.22 mL) and n-BuLi in hexanes (1.6M, 1.85 mL, 2.95 mmol) at −10° C. and stirred for 30 minutes. A solution of 3,5-dibromopyridine (1.00 g, 4.22 mmol) in 1:1 THF:toluene (4.22 mL) was added dropwise over 30 minutes to the reaction mixture and stirred for 1 hour at −10° C. A solution of tert-butyl 4-oxopiperidine-1-carboxylate (0.841 g, 4.22 mmol) in THF (1.00 mL) was added dropwise to the reaction mixture at −10° C. and warmed to room temperature. The reaction mixture was diluted with saturated aqueous NH4Cl and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrating under reduced pressure. The crude residue was purified by silica gel chromatography (ethyl acetate/hexanes) to yield tert-butyl 4-(5-bromopyridin-3-yl)-4-hydroxypiperidine-1-carboxylate. MS APCI calc'd for C15H22BrN2O3 [M+H]+ 357 and 359. found 357 and 359.

reactant | n-Butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | n-BuLi | [Li]CCCC
reactant | 3,5-dibromopyridine | 4.22 mmol, 1.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 4.22 mmol, 0.841 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1.48 mmol, 2 M, 0.739 mL | C1CCOC1 | C4H8O
solvent | toluene | 4.22 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.22 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(5-bromopyridin-3-yl)-4-hydroxypiperidine-1-carboxylate | BrC=1C=C(C=NC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C15H21BrN2O3
